.SUBCKT OAI222X3H7R A0 A1 B0 B1 C0 C1 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I C0:I C1:I Y:O VDD:B VSS:B
MMNM5 Y C1 net44 VSS nm1p2_svt_lp W=450n L=60n m=1
MMNM4 Y C0 net44 VSS nm1p2_svt_lp W=450n L=60n m=1
MMNM3 net44 B1 net52 VSS nm1p2_svt_lp W=450n L=60n m=1
MMNM2 net44 B0 net52 VSS nm1p2_svt_lp W=450n L=60n m=1
MMNM1 net52 A1 VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MMNM0 net52 A0 VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MMPM5 Y C1 net11 VDD pm1p2_svt_lp W=570n L=60n m=1
MMPM4 net11 C0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMPM3 Y B1 net19 VDD pm1p2_svt_lp W=570n L=60n m=1
MMPM2 net19 B0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMPM1 Y A1 net27 VDD pm1p2_svt_lp W=570n L=60n m=1
MMPM0 net27 A0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
.ENDS
